US03972900
A mixture of 80.1 g of 2-acetyl-5-bromo-7-ethylbenzofuran, 37.5 g of triethylamine and 5 g of 5% palladium-on-carbon in 1300 ml of methanol was hydrogenated at room temperature and atmospheric pressure until 1 molar equivalent of hydrogen had been absorbed. The catalyst was filtered off and the filtrate evaporated to dryness. The residual solid was dissolved in ethyl acetate, the resulting solution washed with water and with brine and dried over anhydrous sodium sulphate. The sodium sulphate was then filtered off and the filtrate evaporated under reduced pressure. The residual solid was crystallized from petroleum ether (boiling range 60°-80°C) to give 48.7 g of 2-acetyl-7-ethylbenzofuran as a white crystalline solid of melting point 59°-60°C.

reactant | 2-acetyl-5-bromo-7-ethylbenzofuran | 80.1 g | C(C)(=O)C=1OC2=C(C1)C=C(C=C2CC)Br | C12H11BrO2
reactant | triethylamine | 37.5 g | C(C)N(CC)CC | C6H15N
solvent | methanol | 1300 ml | CO | CH4O
catalyst | palladium-on-carbon | 5 g | [Pd] | Pd
product | 2-acetyl-7-ethylbenzofuran | 48.7 g | C(C)(=O)C=1OC2=C(C1)C=CC=C2CC | C12H12O2
